US05504082
Thionyl chloride (15 ml) was dropwise added to 2-hydroxymethyl-3-methyl-4-(2-piperidinoethylthio)pyridine (2.5 g) under ice-cooling and the mixture was stirred at room temperature for 3 hours. After the completion of the reaction, thionyl chloride was distilled away. The residue was alkali-oversaturated with potassium carbonate and extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate and the solvent was distilled away to give 2.0 g of 2-chloromethyl-3-methyl-4-(2-piperidinoethylthio)pyridine as an oily substance. The substance was added to ethanol (50 ml) containing a solution of 2-mercaptobenzimidazole (1.0 g) and sodium hydroxide (0.6 g) in water (10 ml) and the mixture was refluxed under heating for 5 hours. After the completion of the reaction, the ethanol was distilled away and water was added to the residue, followed by extraction with chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled away. The residue was recrystallized to give 2-((3-methyl-4-(2-piperidinoethylthio)-2-pyridyl)methylthio)-1H-benzimidazole, melting point 138°-140° C.

reactant | Thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-3-methyl-4-(2-piperidinoethylthio)pyridine | 2.5 g | OCC1=NC=CC(=C1C)SCCN1CCCCC1 | C14H22N2OS
product | 2-chloromethyl-3-methyl-4-(2-piperidinoethylthio)pyridine | 2.0 g | ClCC1=NC=CC(=C1C)SCCN1CCCCC1 | C14H21ClN2S
